US05270309
To a solution of 4-amino-3-iodo-5-nitrotoluene (14.0 g) in ethanol (70 ml) was added concentrated sulphuric acid (8 ml) dropwise, then the solution was heated to reflux and solid sodium nitrite (8.9 g) added in small amounts over 30 minutes. The mixture was refluxed a further one hour, and then was poured into ice water. The precipitate was washed with water and dried to yield 3-iodo-5-nitrotoluene (10.2 g). δ (360 MHz, DMSO-d6) 2.40 (3H, s, CH3), 8.07 (2H, bs, 2-H and 6-H) and 8.30 (1H, s, 4-H).

reactant | 4-amino-3-iodo-5-nitrotoluene | 14.0 g | NC1=C(C=C(C=C1[N+](=O)[O-])C)I | C7H7IN2O2
reactant | sulphuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 8.9 g | N(=O)[O-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-iodo-5-nitrotoluene | 10.2 g | IC=1C=C(C=C(C1)[N+](=O)[O-])C | C7H6INO2
